US08455477B2
To a solution of 4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-amine (24 mg, 0.07 mmol) in dichloromethane (1400 μl) was added phenyl isocyanate (9.09 μl, 0.084 mmol) and the mixture was allowed to stir for 72 hours at room temperature. The precipitated solid was filtered was filtered and the washed with 10 mL of dichloromethane. The solid was dried in vacuo to afford N-(4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-yl)-N′-phenylurea. 1H NMR (500 MHz, DMSO-d6) δ 10.28 (s, 1H); 9.46 (s, 1H); 8.69 (s, 1H); 8.28 (s, 1H); 8.23-8.21 (m, 2H); 8.01 (s, 1H); 7.56 (s, 1H); 7.47 (d, 2H); 7.26 (t, 2H); 7.04 (s, 1H); 6.98-6.96 (m, 2H); 4.05 (s, 3H); 3.82 (s, 3H). LRMS (ESI) calculated for C26H21N7O2 [M+H]+, 464.2; found 464.1.

reactant | 4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-amine | 0.07 mmol, 24 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC2=CC(=NC=C2)N | C19H16N6O
reactant | phenyl isocyanate | 0.084 mmol, 9.09 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 1400 μl | ClCCl | CH2Cl2
product | N-(4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-yl)-N′-phenylurea | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC2=CC(=NC=C2)NC(=O)NC2=CC=CC=C2 | C26H21N7O2
